US06667322B2
To a solution of (2R)-3,4-dihydro-2H-benzo[h]chromen-2-ylmethanol (0.90 g, 4.22 mmol) in dichloromethane (50 mL) was added p-toluenesulfonyl chloride (1.61 g, 8.44 mmol), 4-(dimethylamino)pyridine (0.10 g, 0.84 mmol), and N,N-diisopropylethylamine (1.20 g, 9.28 mmol) and the reaction mixture was heated to 50° C. for 12 h. The reaction mixture was quenched by the addition of water (100 mL). The aqueous layer was separated and extracted with dichloromethane (100 mL). The combined organic extracts were washed with aqueous hydrogen chloride (1.0 M, 100 mL), water (100 mL), aqueous sodium chloride (100 mL), dried (magnesium sulfate), and the solvent was removed in vacuo to provide a crude solid. Purification by flash column chromatography (silica, ethyl acetate:hexanes 2:3) gave 1.20 g (77%, 50% ee) of (2R)-3,4-dihydro-2H-benzo[h]chromen-2-ylmethyl 4-methylbenzenesulfonate as a white solid. [α]D25=−10.23 (c 10.16 in chloroform, 50% ee); Rf=0.68 (silica, ethyl acetate:hexanes 2:3); mp 107-111° C.; Anal. Calcd. for C21H20O4S: C, 68.46; H, 5.47. Found: C, 68.10; H, 5.27.

reactant | (2R)-3,4-dihydro-2H-benzo[h]chromen-2-ylmethanol | 4.22 mmol, 0.90 g | O1[C@H](CCC2=CC=C3C(=C12)C=CC=C3)CO | C14H14O2
reactant | p-toluenesulfonyl chloride | 8.44 mmol, 1.61 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | N,N-diisopropylethylamine | 9.28 mmol, 1.20 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 0.84 mmol, 0.10 g | CN(C1=CC=NC=C1)C | C7H10N2
product | (2R)-3,4-dihydro-2H-benzo[h]chromen-2-ylmethyl 4-methylbenzenesulfonate | 1.20 g, 77% | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC2=C3C(=CC=C2CC1)C=CC=C3 | C21H20O4S
